US04576910
Synthesis of 3-[3-(3-acrylamidophenyl)-propyl]-6-methyl-1H-pyrazolo-[5,1-c]-1,2,4-triazole (C-5)
25.2 g (0.1 mol) of 3-[3-(3-aminophen yl)-propyl]-6-methyl-1H-pyrazolo[5,1-c]-1,2,4-triazole synthesized according to Preparation Example 9 described in Japanese Patent Application (OPI) No. 42045/83 corresponding to European Patent Application No. 0073636A1 was dissolved in a mixture of 200 ml of acetonitrile, 100 ml of dimethylacetamide, 16 ml of pyridine, and 1 ml of nitrobenzene. 9.5 g (0.105 mol) of acryl chloride was gradually added dropwise thereto, and, after reaction for one-hour at a temperature not higher than 10° C. with stirring, water and ethyl acetate were added thereto, followed by extracting procedure. The ethyl acetate phase was well washed with saturated sodium chloride aqueous solution, then the solvent was removed. The product was crystallized from acetonitrile. Recrystallization of the crude product from acetonitrile yielded 20.6 g of C-5 having m.p. of 195° to 197° C.

reactant | 3-[3-(3-aminophen yl)-propyl]-6-methyl-1H-pyrazolo[5,1-c]-1,2,4-triazole | 0.1 mol, 25.2 g | NC=1C=C(C=CC1)CCCC=1N2C(NN1)=CC(=N2)C | C14H17N5
reactant | acryl chloride | 0.105 mol, 9.5 g | C(=O)(C=C)Cl | C3H3ClO
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | dimethylacetamide | 100 ml | CC(=O)N(C)C | C4H9NO
solvent | pyridine | 16 ml | N1=CC=CC=C1 | C5H5N
solvent | nitrobenzene | 1 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 3-[3-(3-acrylamidophenyl)-propyl]-6-methyl-1H-pyrazolo-[5,1-c]-1,2,4-triazole | C(C=C)(=O)NC=1C=C(C=CC1)CCCC=1N2C(NN1)=CC(=N2)C | C17H19N5O
